US04698333
13.1 g of 3,4-dichlorophenylhydroxymalonic acid diamide in 200 ml of benzoyl chloride were heated to 110° C. for 9 hours. The mixture was then cooled to 5° C. and the precipitate was filtered off with suction, washed with toluene and then recrystallised from 550 ml of i-propanol. 10 g of 3,4-dichlorophenylbenzoyloxymalonic acid diamide were isolated: melting point 225° C., with decomposition.

reactant | 3,4-dichlorophenylhydroxymalonic acid diamide | 13.1 g | ClC=1C=C(C=CC1Cl)C(C(=O)N)(C(=O)N)O | C9H8Cl2N2O3
solvent | benzoyl chloride | 200 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3,4-dichlorophenylbenzoyloxymalonic acid diamide | 10 g | ClC=1C=C(C=CC1Cl)C(C(=O)N)(C(=O)N)OC(C1=CC=CC=C1)=O | C16H12Cl2N2O4
